US08304419B2
Step E: 5-(acetylamino)-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide
HATU (0.023 g, 0.062 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.013 g, 0.041 mmol), 5-(acetylamino)-1H-indole-2-carboxylic acid (0.009 g, 0.041 mmol) and DIPEA (0.011 mL, 0.062 mmol) in DMF (0.5 mL). The reaction mixture was stirred at RT overnight and was extracted with ethyl acetate and water. The organic layer was washed with brine, dried over sodium sulfate and concentrated. The residue was triturated with methanol to give the title compound (0.009 g, 43%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.50 (s, 1H), 9.74 (s, 1H), 8.95 (s, 1H), 7.91 (s, 1H), 7.78 (s, 1H), 7.40-7.49 (m, 3H), 7.32-7.40 (m, 1H), 7.28 (s, 1H), 7.15-7.24 (m, 1H), 7.06 (s, 1H), 4.53 (s, 2H), 1.98 (s, 3H). MS: m/z 511 (M+1).

reactant | HATU | 0.062 mmol, 0.023 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.041 mmol, 0.013 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 5-(acetylamino)-1H-indole-2-carboxylic acid | 0.041 mmol, 0.009 g | C(C)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C11H10N2O3
reactant | DIPEA | 0.062 mmol, 0.011 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-(acetylamino)-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide | 0.009 g, 43% | C(C)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C25H17Cl2FN4O3
